US07888364B2
50 mg of 4-(ethylsulfonylmethyl)benzoic acid was coupled with 67 mg of 4-chloro-3-(pyridin-2-yl)aniline via Procedure G. This product was recrystallized from methanol to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylsulfonylmethyl)benzamide. MS (Q1) 415 (M)+.

reactant | 4-(ethylsulfonylmethyl)benzoic acid | 50 mg | C(C)S(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C10H12O4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 67 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylsulfonylmethyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)(=O)CC)=O)C1=NC=CC=C1 | C21H19ClN2O3S
